US07307075B2
1-(3-Chloropropyl)-5-metyl-1H-quinolin-2-one, (107LH39)
A microwave vial was charged with 1-(3-chloropropyl)-5-methyl-3,4-dihydro-1H-quinolin-2-one (0.081 g, 0.34 mmol), DDQ (0.116 g, 0.51 mmol), dioxane (2 mL) and sealed. After microwave irradiation, 175° C., 10 min, the reaction was diluted with EtOAc (50 mL), washed with sat aqueous NaHCO3 (2×15 mL) and the organic phase was dried (Na2SO4), filtered, concentrated under reduced pressure and the residue was purified with prep RP-HPLC to yield the crude title compound (0.053 g), which was used without further purification. HPLC-MS (ammonium acetate) [M+H]+=236.2.

reactant | 1-(3-chloropropyl)-5-methyl-3,4-dihydro-1H-quinolin-2-one | 0.34 mmol, 0.081 g | ClCCCN1C(CCC2=C(C=CC=C12)C)=O | C13H16ClNO
reactant | DDQ | 0.51 mmol, 0.116 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(3-Chloropropyl)-5-metyl-1H-quinolin-2-one | 0.053 g | ClCCCN1C(C=CC2=C(C=CC=C12)C)=O | C13H14ClNO
